US06057369
To a solution of 1 g (3.31 mmol) of 3-(4-methoxyphenylsulfanyl)-4-phenylbutyric acid in 30 mL of CH2Cl2 at 25° C. under argon is added 0.2 mL of DMF followed by 4.1 mL (8.27 mmol) of 2 M solution of oxalyl chloride in CH2Cl2. After stirring at 25° C. for 1.5 hours, 2.1 mL (16.53 mmol) of O-trimethylsilylhydroxylamine is added and this is then stirred at 25° C. for 18 hours. The reaction is partitioned between CH2Cl2 and 1 N HCl. The organic layer is dried over anhydrous Na2SO4 and concentrated in vacuo. Purification by flash silica gel chromatography affords 0.86 g (82%) of N-hydroxy-3-(4-methoxyphenylsulfanyl)-4-phenylbutyramide as a yellow crystalline solid.

reactant | 3-(4-methoxyphenylsulfanyl)-4-phenylbutyric acid | 3.31 mmol, 1 g | COC1=CC=C(C=C1)SC(CC(=O)O)CC1=CC=CC=C1 | C17H18O3S
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-trimethylsilylhydroxylamine | 16.53 mmol, 2.1 mL | C[Si](ON)(C)C | C3H11NOSi
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-3-(4-methoxyphenylsulfanyl)-4-phenylbutyramide | 0.86 g, 82% | ONC(CC(CC1=CC=CC=C1)SC1=CC=C(C=C1)OC)=O | C17H19NO3S
